US05567718
2,3-dihydro-3-methylene-2-(4-pyridyl)-1H-isoindol-1-one
A mixture of 2,3-dihydro-3-hydroxy-3-methyl-2-(4-pyridyl)-1H-isoindol-1-one (10.20 g) and phosphorus pentoxide (6.03 g) was heated under vacuum at 200° C. for 20 minutes. Ice water was then added and the mixture was basified with K2CO3 solution. The resulting solid was filtered, dried and passed through a column of florisil (ethyl acetate) to give 6.23 g of a solid. A 2.0 g portion was recrystallized from methanol to give 1.37 g of platelets, mp: 173°-174° C.

reactant | 2,3-dihydro-3-hydroxy-3-methyl-2-(4-pyridyl)-1H-isoindol-1-one | 10.20 g | OC1(N(C(C2=CC=CC=C12)=O)C1=CC=NC=C1)C | C14H12N2O2
reactant | phosphorus pentoxide | 6.03 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 2,3-dihydro-3-methylene-2-(4-pyridyl)-1H-isoindol-1-one | 6.23 g | C=C1N(C(C2=CC=CC=C12)=O)C1=CC=NC=C1 | C14H10N2O
